US04871469
A solution of 29.3 g of trans-4-(trans-4-n-pentylcyclohexyl)-cyclohexanecarbonyl chloride in 120 ml of toluene is added dropwise in the course of 2 hours with stirring to a boiling solution of 16.2 g of p-trifluoromethylphenol and 10 ml of pyridine in 120 ml of toluene. The reaction mixture is refluxed for a further 3 hours and then evaporated. The residue is worked up as conventional. p-Trifluoromethylphenyl trans-4-(trans-4-n-pentylcyclohexyl)-cyclohexanecarboxylate is obtained.

reactant | trans-4-(trans-4-n-pentylcyclohexyl)-cyclohexanecarbonyl chloride | 29.3 g | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)Cl | C18H31ClO
reactant | p-trifluoromethylphenol | 16.2 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | p-Trifluoromethylphenyl trans-4-(trans-4-n-pentylcyclohexyl)-cyclohexanecarboxylate | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C(F)(F)F | C25H35F3O2
